US07358370B2
NaH (350 mg) was added to a solution of 3-difluoromethyl-6,6-dimethyl-1,5,6,7-tetrahydro-indazol-4-one (3.12 g) in DMSO (75 mL) at room temperature. After 20 minutes of stirring, 2-bromo-4-fluorobenzonitrile (4.67 g) was added and stirred at 45° C. overnight. The reaction was diluted with saturated aqueous NH4Cl (100 mL), H2O (100 mL). The mixture was extracted with ethyl acetate (4×150 mL), dried over Na2SO4, filtered, concentrated, purified by column chromatography eluting with a 1:2 mixture of ethyl acetate/hexanes. The concentrate of desired fractions was made into a slurry in ether, stirred for 2 h, filtered, washed by hexane to give pure solid 2-bromo-4-(6,6-dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-benzonitrile (2.82 g, 49.2%). LCMS m/z: (M+H)=395.65, (MW: 394).

reactant | NaH | 350 mg | [H-].[Na+]
reactant | 3-difluoromethyl-6,6-dimethyl-1,5,6,7-tetrahydro-indazol-4-one | 3.12 g | FC(C1=NNC=2CC(CC(C12)=O)(C)C)F | C10H12F2N2O
reactant | 2-bromo-4-fluorobenzonitrile | 4.67 g | BrC1=C(C#N)C=CC(=C1)F | C7H3BrFN
solvent | DMSO | 75 mL | CS(=O)C | C2H6OS
solvent | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | H2O | 100 mL | O | H2O
product | 2-bromo-4-(6,6-dimethyl-4-oxo-3-difluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-benzonitrile | 2.82 g, 49.2% | BrC1=C(C#N)C=CC(=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C(F)F | C17H14BrF2N3O
